US07868188B2
N-(5-{6-Chloro-5-[3-(2,4-difluorophenyl)ureido]-pyridin-3-yl}-4-methyl-1,3-thiazol-2-yl)acetamide
2,4-Difluorophenyl isocyanate (0.022 mL) was added to a stirred solution of N-[5-(5-amino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (50 mg) in THF (1 mL) and the resultant solution was stirred and heated to 50° C. for 1 hour. The mixture was cooled to room temperature and concentrated by evaporation. The residue was purified by preparative HPLC. There was thus obtained the title compound as a white solid (20 mg); 1H NMR Spectrum: (DMSOd6) 2.16 (s, 3H), 2.39 (s, 3H), 7.05-7.08 (m, 1H), 7.33-7.37 (m, 1H), 8.09-8.14 (m, 1H), 8.17 (s, 1H), 8.67 (m, 1H), 8.67 (s, 1H), 9.48 (s, 1H); Mass Spectrum: M+H+ 438.

reactant | 2,4-Difluorophenyl isocyanate | 0.022 mL | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | N-[5-(5-amino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 50 mg | NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(C)=O)C | C11H11ClN4OS
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(5-{6-Chloro-5-[3-(2,4-difluorophenyl)ureido]-pyridin-3-yl}-4-methyl-1,3-thiazol-2-yl)acetamide | 20 mg | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)NC(=O)NC1=C(C=C(C=C1)F)F | C18H14ClF2N5O2S
